US05175301
In 40 ml of DMF was suspended 3.9 g (0.021 mole) of potassium phthalimide followed by addition of 3.9 g (0.02 mole) of 2,6-dichloro-3-pyridylmethyl chloride and the mixture was stirred at 60°-70° C. for 2 hours. The DMF was distilled off under reduced pressure and the residue was diluted with 50 ml of water and extracted with CHCl3 (50 ml×3). The extract was dried over MgSO4 and concentrated and the resulting precipitate was collected by filtration, washed with ether and dried to give 3.8 g of N-2,6-dichloro-3-pyridylmethyl)phthalimide as white prisms.

reactant | potassium phthalimide | 0.021 mole, 3.9 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 2,6-dichloro-3-pyridylmethyl chloride | 0.02 mole, 3.9 g | ClC1=NC(=CC=C1CCl)Cl | C6H4Cl3N
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
